US04052395
6-(3,5-dichloro-4-p-toluenesulfonyloxyphenyl)-4,5-dihydro-3(2H)pyridazinone
A mixture of 10 g. of 6-(3,5-dichloro-4-hydroxyphenyl)-4,5-dihydro-3(2H)pyridazinone, 7.6 g. of p-toluenesulfonic chloride, 4 g. of triethylamine and 50 ml. of dimethylformamide was stirred at 50° C. for 8 hours. Then, the reaction mixture was treated in the same manner as in Example 11 and recrystallized from dioxane-petroleum ether to give 3.8 g. of the desired product as prisms of m.p. 208° - 209° C.

reactant | 6-(3,5-dichloro-4-hydroxyphenyl)-4,5-dihydro-3(2H)pyridazinone | ClC=1C=C(C=C(C1O)Cl)C=1CCC(NN1)=O | C10H8Cl2N2O2
reactant | p-toluenesulfonic chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6-(3,5-dichloro-4-p-toluenesulfonyloxyphenyl)-4,5-dihydro-3(2H)pyridazinone | ClC=1C=C(C=C(C1OS(=O)(=O)C1=CC=C(C=C1)C)Cl)C=1CCC(NN1)=O | C17H14Cl2N2O4S
